US04937268
3-[2-[(6-Bromohexyl)oxy]ethoxy]pyridine
A mixture of 2-[(3-pyridinyl)oxy]ethanol (1.9 g), 1,6-dibromohexane (6 ml), tetra-n-butylammonium bisulphate (0.5 g) and 50% w/v sodium hydroxide (20 ml) was stirred vigorously for 5 h, diluted with water (30 ml) and extracted with ethyl acetate (3×50 ml). The combined organic extracts were dried and evaporated in vacuo to give an oil which was purified by FCC eluting with hexane→ethylacetate to give the title compound (2.3 g) as an oil. T.l.c. (System E 80:20:1) Rf 0.63

reactant | 2-[(3-pyridinyl)oxy]ethanol | 1.9 g | N1=CC(=CC=C1)OCCO | C7H9NO2
reactant | 1,6-dibromohexane | 6 ml | BrCCCCCCBr | C6H12Br2
reactant | sodium hydroxide | 20 ml | [OH-].[Na+]
catalyst | tetra-n-butylammonium bisulphate | 0.5 g | S([O-])(O)(=O)=O.C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | water | 30 ml | O | H2O
product | 3-[2-[(6-Bromohexyl)oxy]ethoxy]pyridine | 2.3 g | BrCCCCCCOCCOC=1C=NC=CC1 | C13H20BrNO2
